US06211215B1
In substantially the same manner as in Working Example 37, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(3,4-dihydro-2-naphthyl)oxazole to give 2-(3,4-dihydro-2-naphthyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 42%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 99-100° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(3,4-dihydro-2-naphthyl)oxazole | ClCC=1N=C(OC1)C1=CC2=CC=CC=C2CC1 | C14H12ClNO
product | 2-(3,4-dihydro-2-naphthyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 42% | C1=C(CCC2=CC=CC=C12)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C26H25N3O2
